US07705027B2
Ethyl 5-(5-chloro-2-hydroxy-phenyl)-4-(4-morpholin-4-ylmethyl-phenyl)-isoxazole-3-carboxamide
To a solution of ethyl 5-(2-benzyloxy-5-chloro-phenyl)-4-(4-morpholin-4-ylmethyl-phenyl)-isoxazole-3-carboxamide (25 mg, 4.7×10−2 mmol) in DCM (5 ml) at 0° C., 1M BCl3 in DCM (0.15 ml) was added. The resulting cloudy yellow solution was then stirred at 0° C. for 15 minutes and room temperature 3 to 4 hours until it became clear. After that, the solution was quenched by MeOH (1 ml). Sat. NaHCO3 (1 ml) was then added and extracted with EtOAc (2×2 ml) and dried. After the solvent was filtered and evaporated, the crude oil was purified by preparative TLC (EtOAc: MeOH/50:1), yielded 12 mg solids. 1H NMR (d4-MeOD) δ=7.60 (2H, d); 7.50-7.30 (1H+1H+1H, m); 7.00 (2H, d); 3.70 (4H, m); 3.60 (2H, s); 3.50 (2H, q); 2.60 (4H, m) and 1.25 (3H, t). LCMS: (M+1)+=442.2 (RT=3.54 min.)

reactant | ethyl 5-(2-benzyloxy-5-chloro-phenyl)-4-(4-morpholin-4-ylmethyl-phenyl)-isoxazole-3-carboxamide | 4.7×10−2 mmol, 25 mg | C(C)NC(=O)C1=NOC(=C1C1=CC=C(C=C1)CN1CCOCC1)C1=C(C=CC(=C1)Cl)OCC1=CC=CC=C1 | C30H30ClN3O4
reactant | BCl3 | 1M | B(Cl)(Cl)Cl | BCl3
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.15 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 5-(5-chloro-2-hydroxy-phenyl)-4-(4-morpholin-4-ylmethyl-phenyl)-isoxazole-3-carboxamide | 12 mg | C(C)NC(=O)C1=NOC(=C1C1=CC=C(C=C1)CN1CCOCC1)C1=C(C=CC(=C1)Cl)O | C23H24ClN3O4
